US07468367B2
4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazole-3-carboxylic acid [2-(6,7-difluoro-quinoxalin-2-ylamino)-ethyl]-methyl-amide
The title compound was prepared from 4-4-fluoro-phenyl)-1-methyl-1H-pyrazole-3-carboxylic acid (46 mg, 0.21 mmol) and N-(6,7-difluoro-quinoxalin-2-yl)-N′-methyl-ethane-1,2-diamine.dihydrochloride, D2 (65 mg, 0.21 mmol) according to the procedure described for Example 1, as a yellow solid (65 mg, 71%).

reactant | 1-methyl-1H-pyrazole-3-carboxylic acid | 0.21 mmol, 46 mg | CN1N=C(C=C1)C(=O)O | C5H6N2O2
reactant | N-(6,7-difluoro-quinoxalin-2-yl)-N′-methyl-ethane-1,2-diamine.dihydrochloride | Cl.Cl.FC=1C=C2N=CC(=NC2=CC1F)NCCNC
product | 4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazole-3-carboxylic acid [2-(6,7-difluoro-quinoxalin-2-ylamino)-ethyl]-methyl-amide | FC=1C=C2N=CC(=NC2=CC1F)NCCN(C(=O)C1=NN(C=C1C1=CC=C(C=C1)F)C)C | C22H19F3N6O
